US06448443B1
2-Iodobenzaldehyde.
Commercially available 2-iodobenzyl alcohol (10.0 g, 42.7 mmol) was dissolved in 200 mL CH2Cl2. Upon completion, the reaction was diluted with 250 mL Et2O. The product was recovered as a brown liquid (10.3 g, 104%). TLC: Rf 0.57 (3:1 hexanes/EtOAc). IR (neat): 3061, 2853, 2745, 1696, 1580, 1561. 1H-NMR (400 MHz, CDCl3): δ 10.07 (s, 1H, C1-H), 7.95 (dd, 1H, J=7.9, 1.0, C4-H), 7.88 (dd, 1H, J=7.7, 1.8, C7-H), 7.47 (td, 1H, J=7.5 0.8, C6-H), 7.29 (td, 1H, J=7.6, 1.8, C5-H). 13C-NMR (100 MHz, CDCl3): δ 195.1, 140.2, 135.1, 134.7, 129.9, 128.4, 100.5. EI-MS m/z (rel int): 232 (M+, 100), 231 ([M−H]+, 40), 203 ([M−CHO]+, 15), 105 ([M−I]+, 3).

reactant | 2-iodobenzyl alcohol | 42.7 mmol, 10.0 g | IC1=C(CO)C=CC=C1 | C7H7IO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 250 mL | CCOCC | C4H10O
product | 2-Iodobenzaldehyde | IC1=C(C=O)C=CC=C1 | C7H5IO
